US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({2-methyl-3′-[(4-methylhexahydro-1H-1,4-diazepin-1-yl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide
A mixture of N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-2-methyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide (100 mg, 0.000152 mol) in 1,2-dichloroethane (4 mL) with 1-methylhexahydro-1H-1,4-diazepine (30.4 μL., 0.00024 mol) and sodium triacetoxyborohydride (68 mg., 0.00032 mol) and AcOH (12 μL) was placed on an oscillating shaker overnight at room temperature. The reaction was quenched with sat. aq. NaHCO3, then extracted with 1,2-dichloroethane (2×). Combined organic extracts were washed with sat. aq. NaCl and dried (Na2SO4) and concentrated to a residue. Purification was carried out on Gilson HPLC instrument with acetonitrile-water (0.1% TFA) gradient; C18-RP column. Fractions containing the clean desired product were combined; diluted with EtOAc; washed with sat. aq. NaHCO3; and the aq. phase was back-extracted with EtOAc. Combined organic extracts were washed with sat. aq. NaCl and dried (Na2SO4) and concentrated to a residue. It was taken up in a small amount of 1,2-dichloroethane and transferred to a vial and pumped down to afford the title compound as a pale brown colored solid [48.3 mg (42%)]. LC-MS m/z 757.5 (M+H)+.

reactant | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-2-methyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide | 0.000152 mol, 100 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C(=C(C=CC2)C2=CC(=CC=C2)C=O)C)CC | C39H42N6O4
reactant | 1-methylhexahydro-1H-1,4-diazepine | 0.00024 mol, 30.4 μL | CN1CCNCCC1 | C6H14N2
reactant | sodium triacetoxyborohydride | 0.00032 mol, 68 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 12 μL | CC(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({2-methyl-3′-[(4-methylhexahydro-1H-1,4-diazepin-1-yl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide | 48.3 mg, 42% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C(=C(C=CC2)C2=CC(=CC=C2)CN2CCN(CCC2)C)C)CC | C45H56N8O3
